US04138289
A Grignard solution is prepared in the manner described above in Example 10 from 0.3 g (12.4 mmol) of magnesium and 2.54 g (11.5 mmol) of (R)-1-bromo-3,7-dimethyloctane in 10 ml of absolute tetrahydrofuran. To this solution are added dropwise at 0° 1.45 g (5.57 mmol) of 2-[(S)-4-bromo-3-methylbutoxy]-tetrahydro-2H-pyran followed by 0.3 ml. of a 0.1 molar solution of Li2CuCl4 in tetrahydrofuran. This reaction mixture is stirred at 0° for 3 hours. The working-up as well as the hydrolysis of the tetrahydro-2-{[(3R,7R)-3,7,11-trimethyldodecyl]-oxy}-2H-pyran obtained to (3R,7R)-3,7,11-trimethyl-1-dodecanol is effected in the manner described above in Example 10. The yield of (3R,7R)-3,7,11-trimethyl-1-dodecanol amounts, after bulb-tube distillation at 90°-95°/0.05 Torr, to 0.5 g (43% based on 2-[ (S)-4-bromo-3-methylbutoxy]-tetrahydro-2H-pyran); [α]D20 = +3.9° (c = 1.05, n-octane).

reactant | magnesium | 12.4 mmol, 0.3 g | [Mg] | Mg
reactant | (R)-1-bromo-3,7-dimethyloctane | 11.5 mmol, 2.54 g | BrCC[C@@H](CCCC(C)C)C | C10H21Br
reactant | 2-[(S)-4-bromo-3-methylbutoxy]-tetrahydro-2H-pyran | 5.57 mmol, 1.45 g | BrC[C@H](CCOC1OCCCC1)C | C10H19BrO2
reactant | tetrahydro-2-{[(3R,7R)-3,7,11-trimethyldodecyl]-oxy}-2H-pyran | C[C@@H](CCOC1OCCCC1)CCC[C@@H](CCCC(C)C)C | C20H40O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (3R,7R)-3,7,11-trimethyl-1-dodecanol | C[C@@H](CCO)CCC[C@@H](CCCC(C)C)C | C15H32O
